US09061030B2
To 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carboximidamide (Intermediate-6, 0.33 mmol) was added a stock solution of 3-ethoxyacrylonitrile (3 equiv) and DBU (1 equiv) in pyridine (3 mL). The reaction was warmed to 110° C. and stirred for 46 h. The reaction mixture was conc. and purified using SiO2 chromatography and an appropriate gradient (CH3CN/MeOH/CH2Cl2) to afford 2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-4-amine (I-48) as a light tan solid (78% yield).

reactant | 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carboximidamide | 0.33 mmol | FC1=C(CN2N=C(N=C2C=2SC=CN2)C(N)=N)C=CC=C1 | C13H11FN6S
reactant | 3-ethoxyacrylonitrile | 3 equiv | C(C)OC=CC#N | C5H7NO
reactant | DBU | 1 equiv | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | CH3CN MeOH CH2Cl2 | CC#N.CO.C(Cl)Cl
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-4-amine | FC1=C(CN2N=C(N=C2C=2SC=CN2)C2=NC=CC(=N2)N)C=CC=C1 | C16H12FN7S
